US08580794B2
tert-butyl (3R)-1-(2,2-dimethyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylcarbamate
The title compound was prepared by substituting 2,2-dimethyldihydro-2H-pyran-4(3H)-one for 4′-chlorobiphenyl-2-carboxaldehyde and (R)-tert-butyl pyrrolidin-3-ylcarbamate for tert-butyl piperazine-1-carboxylate in EXAMPLE 1A.

reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
reactant | (R)-tert-butyl pyrrolidin-3-ylcarbamate | N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C9H18N2O2
reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
product | tert-butyl (3R)-1-(2,2-dimethyltetrahydro-2H-pyran-4-yl)pyrrolidin-3-ylcarbamate | CC1(OCCC(C1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O)C | C16H30N2O3
